US04235996
2-Chloro-9,10-dihydro-9,10-anthracenedicarboxaldehyde
To a solution of 2.7 g. of cis-2-chloro-9,10-dihydro-9,10-ethanoanthracene-11,12-diol in 20 ml. of acetic acid at room temperature is added 5.0 g. of lead tetraacetate (containing 10% acetic acid) portionwise. The mixture is stirred for 10 minutes, cooled in an ice-water bath and the crystals which form are collected by filtration and washed with cold acetic acid, giving the desired product as off-white crystals, m.p. 113°-115° C.

reactant | cis-2-chloro-9,10-dihydro-9,10-ethanoanthracene-11,12-diol | ClC1=CC=2[C@@H]3C4=CC=CC=C4[C@H](C2C=C1)C(C3O)O | C16H13ClO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Chloro-9,10-dihydro-9,10-anthracenedicarboxaldehyde | ClC1=CC=2C(C3=CC=CC=C3C(C2C=C1)C=O)C=O | C16H11ClO2
